US05162312
a) 17,17-di-n-hexyloxy-3-methoxy-estra-1,3,5(10)-triene
5 g of 3-methoxy-estra-1,3,5(10)-trien-17-one is reacted according to example 1a. N-hexanol is used as alcohol. The reaction mixture was used in the next step without a preceding working up.

reactant | 3-methoxy-estra-1,3,5(10)-trien-17-one | 5 g | COC1=CC=2CC[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3C2C=C1)=O | C19H24O2
reactant | N-hexanol | CCCCCCO | C6H14O
product | 17,17-di-n-hexyloxy-3-methoxy-estra-1,3,5(10)-triene | C(CCCCC)OC1([C@]2(C)[C@@H](CC1)[C@@H]1CCC=3C=C(C=CC3[C@H]1CC2)OC)OCCCCCC | C31H50O3
